US08633173B2
(4-Methoxy-phenyl)-[8-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine was prepared from (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(4-methoxy-phenyl)-amine (200.0 mg, 0.6266 mmol) and 1H-pyrazole-4-boronic acid (75.0 mg, 0.670 mmol) with Pd(dppf)Cl2 (50.0 mg) as the catalyst in a manner analogous to Step 2c and was isolated as a brown solid (0.065 g, 34%). MP=224-226° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 13.03 (br s, 1H), 9.38 (s, 1H), 8.59 (d, J=6.5 Hz, 1H), 8.49 (s, 2H), 7.85 (d, J=7.2 Hz, 1H), 7.64 (d, J=8.0 Hz, 2H), 7.11 (t, J=7.2 Hz, 1H), 6.91 (d, J=8.4 Hz, 2H), 3.73 (s, 3H). MS=307 (MH)+.

reactant | (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(4-methoxy-phenyl)-amine | 0.6266 mmol, 200.0 mg | BrC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OC | C13H11BrN4O
reactant | 1H-pyrazole-4-boronic acid | 0.670 mmol, 75.0 mg | N1N=CC(=C1)B(O)O | C3H5BN2O2
catalyst | Pd(dppf)Cl2 | 50.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (4-Methoxy-phenyl)-[8-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine | COC1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C=2C=NNC2)=N1 | C16H14N6O
